US07858741B2
A solution of Boc-Mop-OH (0.42 g, 1.71 mmol), H-Gly-OBn.TsOH (0.64 g, 1.88 mmol), DCC (0.35 g, 1.71 mmol), HOBt.H2O (0.26 g, 1.71 mmol) and DIEA (0.89 mL, 5.13 mmol) in DMF (30 mL) was stirred at room temperature under Ar(g) for 20 h. The mixture was filtered to remove insoluble DCU and concentrated by rotary evaporation under high vacuum. The product was isolated by flash chromatography (two columns were needed; the first was run in 8:2 EtOAc/hexanes and the second in 7:3 EtOAc/hexanes) affording Boc-Mop-Gly-OBn (0.55 g, 82%) as a clear oil. 1H NMR (500 MHz, CDCl3, ˜3:2 ratio of 2 rotamers): δ7.41-7.32 (m, 5 H), 6.53 (app bs, 0.4 H), 5.22-5.15 (m, 2 H), 4.44 (dd, J=7.9, 5.6 Hz, 0.6 H); 4.31 (t, J=7.8 Hz, 0.4 H), 4.16-3.97 (m, 2.6 H), 3.93 (app bs, 0.4 H), 3.81-3.72 (m, 0.6 H), 3.53-3.43 (m, 1.4 H), 3.32 and 3.31 (overlapping s, 3 H), 2.49-2.42 (m, 0.6 H), 2.41-2.33 (m, 0.4 H), 2.16-2.05 (m, 1 H), 1.89 (bs, 0.6 H), 1.47 (s, 5 H), 1.42 (s, 4 H);

reactant | N-tert-Butoxycarbonyl-(2S,4R)-4-methoxyproline | 1.71 mmol, 0.42 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)C[C@H](C1)OC | C11H19NO5
reactant | H-Gly-OBn | NCC(=O)OCC1=CC=CC=C1 | C9H11NO2
reactant | TsOH | 1.88 mmol, 0.64 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | DCC | 1.71 mmol, 0.35 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 1.71 mmol, 0.26 g | O | H2O
reactant | DIEA | 5.13 mmol, 0.89 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | N-tert-Butoxycarbonyl-(2S,4R)-4-methoxyprolylglycine Benzyl Ester | 0.55 g, 82% | C(C1=CC=CC=C1)OC(CNC([C@H]1N(C[C@@H](C1)OC)C(=O)OC(C)(C)C)=O)=O | C20H28N2O6
